US05041455
A. 3-(4-hexylamino-1,2,5-thiadiazol-3-yl)pyridine
A solution of 3-(4-chloro-1,2,5-thiadiazol-3-yl)pyridine (0.59 g, 3 mmol) and hexylamine (1.52 g, 15 mmol) in DMSO (5 ml) was heated at 100° C. for 48 h. After evaporation, water was added to the residue and extracted with ether. The combined organic extracts were dried and evaporated to give the title compound.

reactant | 3-(4-chloro-1,2,5-thiadiazol-3-yl)pyridine | 3 mmol, 0.59 g | ClC=1C(=NSN1)C=1C=NC=CC1 | C7H4ClN3S
reactant | hexylamine | 15 mmol, 1.52 g | C(CCCCC)N | C6H15N
solvent | DMSO | 5 ml | CS(=O)C | C2H6OS
product | 3-(4-hexylamino-1,2,5-thiadiazol-3-yl)pyridine | C(CCCCC)NC=1C(=NSN1)C=1C=NC=CC1 | C13H18N4S
